US09163011B2
a) 3-Amino-6-chloro-5-(1-ethoxy-vinyl)-pyrazine-2-carboxylic acid methyl ester
A mixture of 3-amino-5,6-dichloro-pyrazine-2-carboxylic acid methyl ester [1458-18-0] (600 mg, 2.62 mmol), lithium chloride (389 mg, 9.17 mmol), Pd(PPh3)2Cl2 (184 mg, 0.262 mmol) and tributyl-(1-ethoxy-vinyl)-stannane [97674-02-7] (1.6 ml, 4.50 mmol) in DMF (27 ml) under argon was heated at 80° C. bath temperature for 3 h and 50 min. Saturated aq. NH4Cl was added and the mixture was extracted with MTBE (3×). The combined organic layers were washed with brine, dried with Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 7:3) to provide the title compound as yellow solid (433 mg).

reactant | 3-amino-5,6-dichloro-pyrazine-2-carboxylic acid methyl ester | 2.62 mmol, 600 mg | COC(=O)C1=NC(=C(N=C1N)Cl)Cl | C6H5Cl2N3O2
reactant | lithium chloride | 9.17 mmol, 389 mg | [Cl-].[Li+]
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 4.50 mmol, 1.6 ml | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 27 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.262 mmol, 184 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Amino-6-chloro-5-(1-ethoxy-vinyl)-pyrazine-2-carboxylic acid methyl ester | 433 mg | COC(=O)C1=NC(=C(N=C1N)C(=C)OCC)Cl | C10H12ClN3O3
